US06172057B2
2-(4-Fluoro-benzenesulfonyl)-2-pyridin-3-ylmethyl-hex-4-ynoic acid hydroxyamide was prepared according to the method as outlined in Example 1. Starting from 2-(4-fluoro-benzenesulfonyl)-2-pyridin-3-ylmethyl-hex-4-ynoic acid (0.29 g, 0.81 mmol) and hydroxylamine hydrochloride (0.70 g, 10 mmol), 0.15 g of the product was isolated. Yield 45%; white solid; mp 190° C.; MS: 377.2 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 1.60 (s, 3H), 2.70-3.00 (m, 2H), 3.53 (d, J=13.8 Hz, 1H), 3.74 (d, J=13.8 Hz, 1H), 7.50-7.58 (m, 2H), 7.80-7.95 (m, 3H), 8.35-8.40(m, 1H), 8.74-8.79 (m, 2H), 11.1 (brs, 1H); IR (KBr, cm−1): 3154 m, 3105 s, 3068 s, 2875 m, 1696 s, 1630 w, 1590 s;

reactant | 2-(4-fluoro-benzenesulfonyl)-2-pyridin-3-ylmethyl-hex-4-ynoic acid | 0.81 mmol, 0.29 g | FC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC#CC)CC=1C=NC=CC1 | C18H16FNO4S
reactant | hydroxylamine hydrochloride | 10 mmol, 0.70 g | Cl.NO
product | 2-(4-Fluoro-benzenesulfonyl)-2-pyridin-3-ylmethyl-hex-4-ynoic acid hydroxyamide | Yield 45% | ONC(C(CC#CC)(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)F)=O | C18H17FN2O4S
